US08748613B2
Ethyl 2-bromo-2-phenylacetate (0.22 ml, 1.23 mmol) was dissolved in acetonitrile (4.0 ml). DIPEA (0.26 ml, 1.48 mmol) and pyrrolidine (0.12 ml, 1.48 mmol) were sequentially added and the solution was stirred at room temperature for 1.5 hours. Acetonitrile was evaporated and the residue was purified by flash chromatography (petroleum ether/EtOAc=9/1) to obtain ethyl 2-phenyl-2-(pyrrolidin-1-yl)acetate (315 mg, quantitative yield) as a colorless oil.

reactant | Ethyl 2-bromo-2-phenylacetate | 1.23 mmol, 0.22 ml | BrC(C(=O)OCC)C1=CC=CC=C1 | C10H11BrO2
reactant | DIPEA | 1.48 mmol, 0.26 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | pyrrolidine | 1.48 mmol, 0.12 ml | N1CCCC1 | C4H9N
solvent | acetonitrile | 4.0 ml | C(C)#N | C2H3N
product | ethyl 2-phenyl-2-(pyrrolidin-1-yl)acetate | 315 mg, quantitative yield | C1(=CC=CC=C1)C(C(=O)OCC)N1CCCC1 | C14H19NO2
